US05342846
1-Cyclopropyl-6,8-difluoro-7-[3-(1 , 2 , 4-triazol-1-yl)pyrrolidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
To a solution of 1-cyclopropyl-6,7,8-trifluoro -1,4-dihydro-4-oxoquinoline-3-carboxylic acid (70.75 mg, 0.25 mmol) and 3-(1,2,4-triazol-1-yl)pyrrolidine hydrochloride (100 mg) 3 ml of dry pyridine under nitrogen was added 152 mg (1 mmol) of DBU and the solution was heated at 95° C. overnight. The orange solution was then concentrated under reduced pressure and water was added to the residue and the solid was collected and dried to yield 50 mg (50%) of a gray solid, m.p. 219.7°-220.7° C. 1H NMR (TFA) δ: 9.8 (s, 1H), 9.29 (s, 1H), 8.78 (s, 1H), 8.11 (d, J=12.5, 1H), 5.85-5.58 (m, 1H), 4.9-4.2 (m, 5H), 3.00-2.7 (m, 2H), 1.75-1.3 (m, 4H). Anal. calcd. for C19H17F2N5O3 : C, 56.86; H, 4.27; N, 17.45. Found: C, 56.80; H, 4.41; N, 17.48.

reactant | 1-cyclopropyl-6,7,8-trifluoro -1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.25 mmol, 70.75 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | 3-(1,2,4-triazol-1-yl)pyrrolidine hydrochloride | 3 ml, 100 mg | Cl.N1(N=CN=C1)C1CNCC1
reactant | DBU | 1 mmol, 152 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-Cyclopropyl-6,8-difluoro-7-[3-(1 , 2 , 4-triazol-1-yl)pyrrolidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 50 mg, 50% | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(CC1)N1N=CN=C1)F)=O)C(=O)O | C19H17F2N5O3
